US07696379B2
N-[(1S,3S)-3-(3-chloro-phenylethynyl)-3-hydroxy-cyclohexyl]-4-methyl-benzamide
A solution of TBTU (2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate)(29.9 mg, 0.093 mmol) in DMA (0.23 ml) and DIPEA (36 μl, 0.213 mmol) was added to solid 4-methylbenzoic acid (11.6 mg, 0.085 mmol) under argon atmosphere at room temperature. After stirring for 20 min., a solution of (1S,3S)-3-amino-1-(3-chloro-phenylethynyl)-cyclohexanol (21.2 mg, 0.085 mmol) in DMA (0.43 ml) was added and the crude reaction mixture was purified without further treatment after stirring for 24 h on a preparative LC/MS system, yielding the title compound (25.1 mg, 0.068 mmol).

reactant | TBTU | 0.093 mmol, 29.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.213 mmol, 36 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methylbenzoic acid | 0.085 mmol, 11.6 mg | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | (1S,3S)-3-amino-1-(3-chloro-phenylethynyl)-cyclohexanol | 0.085 mmol, 21.2 mg | N[C@@H]1C[C@](CCC1)(O)C#CC1=CC(=CC=C1)Cl | C14H16ClNO
solvent | DMA | 0.23 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.43 ml | CC(=O)N(C)C | C4H9NO
product | N-[(1S,3S)-3-(3-chloro-phenylethynyl)-3-hydroxy-cyclohexyl]-4-methyl-benzamide | 0.068 mmol, 25.1 mg | ClC=1C=C(C=CC1)C#C[C@]1(C[C@H](CCC1)NC(C1=CC=C(C=C1)C)=O)O | C22H22ClNO2
